US07427635B2
(4-Acetyl-thiazol-2-yl)-carbamic acid tert-butyl ester (500 mg, 2.06 mmol) was taken in to dry tetrahydrofuran (8 mL) and cooled in an ice bath. To this was added a 3 M solution of methyl magnesium bromide (2.752 mL, 8.256 mmol) in diethyl ether over 5 minutes. After 30 minutes, more 3 M solution of methyl magnesium bromide (1 mL, 3 mmol) in diethyl ether was added. After 30 minutes, an additional aliquot of 3 M methyl magnesium bromide (1 mL, 3 mmol) in diethyl ether was added. No further change in the reaction mixture composition was observed after an additional 30 minutes. The reaction mixture was diluted with tetrahydrofuran (5 mL) and allowed to warm to room temperature. After 2 hours thin layer chromatography indicated no change in the composition of the reaction mixture. The reaction mixture was cooled in an ice bath and saturated aqueous ammonium chloride was added slowly. The mixture was diluted with water, extracted with ethyl acetate and washed with brine. The combined organic extracts were dried over sodium sulfate and concentrated to give a viscous oil. The crude product was purified by chromatography over silica gel gradient eluted from 1:19 upto 1:4 ethyl acetate/dichloromethane to give [4-(1-hydroxy-1-methyl-ethyl)-thiazol-2-yl]-carbamic acid tert-butyl ester as a white foam (250 mg, 47%).

reactant | (4-Acetyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 2.06 mmol, 500 mg | C(C)(C)(C)OC(NC=1SC=C(N1)C(C)=O)=O | C10H14N2O3S
reactant | methyl magnesium bromide | 8.256 mmol, 2.752 mL | C[Mg]Br
reactant | methyl magnesium bromide | 3 mmol, 1 mL | C[Mg]Br
reactant | methyl magnesium bromide | 3 mmol, 3 M, 1 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | [4-(1-hydroxy-1-methyl-ethyl)-thiazol-2-yl]-carbamic acid tert-butyl ester | 250 mg, 47% | C(C)(C)(C)OC(NC=1SC=C(N1)C(C)(C)O)=O | C11H18N2O3S
